US05716929
N-tert-Butoxycarbonyl-4 (R)-allyloxyproline
N-tert-Butoxycarbonyl (4R)-hydroxyproline (9.25 g, 40 mmol) was added to a solution of 60% sodium hydride (3.36 g, 84 mmol) in 100 ml of anhydrous tetrahydrofuran and stirred for 2 hours at room temperature. Allyl bromide (6.9 ml, 80 mmol) was added to the mixture and refluxed for 6 hours. The mixture was quenched with the addition of ice chips, then additional water was added and the mixture was washed with hexane. The aqueous layer was acidified with 10% sodium hydrogen sulfate and extracted with ethyl acetate (2×150 ml). The combined extracts were dried over anhydrous sodium sulfate, filtered and evaporated to give 5 g of the title product with no further purification. 1NMR (CDCl3 ; exist as rotamers) δ 5.92-5.82 (1H, m), 5.3-5.14 (2H, m) 4.5-4.31 (1H, m), 4.16-4.05 (1H, m), 4.04-3.9 (1H, m), 3.79-3.5 (3H, m), 2.43-2.2 (1.5H, m), 2.15-2.10 (0.5H, m), 1.45 (4.5H, s), 1.35 (4.5H, s).

reactant | N-tert-Butoxycarbonyl (4R)-hydroxyproline | 40 mmol, 9.25 g | C(C)(C)(C)OC(=O)N1[C@H](C(=O)O)C[C@@H](O)C1 | C10H17NO5
reactant | sodium hydride | 84 mmol, 3.36 g | [H-].[Na+]
reactant | Allyl bromide | 80 mmol, 6.9 ml | C(C=C)Br | C3H5Br
solvent | tetrahydrofuran | 100 ml | O1CCCC1 | C4H8O
product | N-tert-Butoxycarbonyl-4 (R)-allyloxyproline | 5 g | C(C)(C)(C)OC(=O)N1[C@H](C(=O)O)C[C@H](C1)OCC=C | C13H21NO5
